US06121271
4-(2,3-Dimethyl-naphtho[2,3-b]furan-4-yl)-2-cyclopentyl-phenol
The title compound was prepared according to the procedure in Example 1, step 5 using (2-benzyl-4,5-dimethyl-furan-3-yl)-(3-cyclopentyl-4-methoxy-phenyl)-methanone (18.8 g, 48.4 mmol) boron tribromide (34.8 mL, 0.367 mol) in CH2Cl2. Purification on silica gel eluting with a 2, 5, 10 and 20% EtOAc/hexane step gradient gave 1.55 g (10%) of the title compound. 1H NMR (DMSO-d6)δ 1.56-1.69 (m, 9 H), 1.96-1.97 (m, 5 H), 2.37 (s, 3 H), 3.33 (q, 1 H, masked by H2O), 6.91-7.00 (m, 2 H), 7.06 (d, 1 H), 7.30 (t, 1 H), 7.41 (t, 1 H), 7.56 (d, 1 H), 7.91 (s, 1 H), 7.98 (d, 1 H), 9.48 (s, 1 H).

reactant | (2-benzyl-4,5-dimethyl-furan-3-yl)-(3-cyclopentyl-4-methoxy-phenyl)-methanone | 48.4 mmol, 34.8 mL, 18.8 g | C(C1=CC=CC=C1)C=1OC(=C(C1C(=O)C1=CC(=C(C=C1)OC)C1CCCC1)C)C | C26H28O3
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | 4-(2,3-Dimethyl-naphtho[2,3-b]furan-4-yl)-2-cyclopentyl-phenol | 1.55 g, 10% | CC1=C(C2=C(O1)C=C1C=CC=CC1=C2C2=CC(=C(C=C2)O)C2CCCC2)C | C25H24O2
